testing c2
.include TSMC_180nm.txt

* Parameters
.param time=5n
.param lambda = 0.09u
.param L = 2*lambda
.param Wn = 20*lambda
.param Wp = 20*lambda
.global gnd vdd


.SUBCKT Nswitch gate src drn width=1
M1 drn gate src gnd CMOSN W={width} L={L}
+ AS={5*width*L/2} PS={10*L/2+2*width}
+ AD={5*width*L/2} PD={10*L/2+2*width}
.ENDS Nswitch

.SUBCKT Pswitch gate src drn width=1
M2 drn gate src vdd CMOSP W={width} L={L}
+ AS={5*width*L/2} PS={10*L/2+2*width}
+ AD={5*width*L/2} PD={10*L/2+2*width}
.ENDS Pswitch

.subckt inverter in out 
X1 in vdd out Pswitch width={wp/2}
X2 in gnd out Nswitch width={wn}
.ends


* Voltage Sources
Vdd vdd gnd DC 1.8
* Modified input signal for better visualization of inverting behavior
Vinclk clk  gnd PULSE(0 1.8 0n 0.1n 0.1n {time  } { 2*time } )
Ving0 p0 gnd PULSE(0 1.8 0n 0.1n 0.1n  {2*time} { 4*time } )
Ving2 c0 gnd PULSE(0 1.8 0n 0.1n 0.1n  {2*time} { 4*time } )
Ving3 g0  gnd PULSE(0 1.8 0n 0.1n 0.1n {4*time} { 8*time } )

Ving10 p1 gnd PULSE(0 1.8 0n 0.1n 0.1n  {2*time} { 4*time } )

Ving12 c1 gnd PULSE(0 1.8 0n 0.1n 0.1n  {2*time} { 4*time } )

Ving13 g1  gnd PULSE(0 1.8 0n 0.1n 0.1n {4*time} { 8*time } )

Ving20 p2 gnd PULSE(0 1.8 0n 0.1n 0.1n  {2*time} { 4*time } )

Ving22 c2 gnd PULSE(0 1.8 0n 0.1n 0.1n  {2*time} { 4*time } )

Ving23 g2  gnd PULSE(0 1.8 0n 0.1n 0.1n {4*time} { 8*time } )

Ving30 p3 gnd PULSE(0 1.8 0n 0.1n 0.1n  {2*time} { 4*time } )

Ving32 c3 gnd PULSE(0 1.8 0n 0.1n 0.1n  {2*time} { 4*time } )

Ving33 g3  gnd PULSE(0 1.8 0n 0.1n 0.1n {4*time} { 8*time } )

Ving4 ing3  gnd PULSE(0 1.8 0n 0.1n 0.1n {8*time} { 16*time} )
Vinp0 inp0 gnd PULSE(0 1.8 0n 0.1n 0.1n  {2*2*time} { 2*4*time } )
Vinp2 inp1 gnd PULSE(0 1.8 0n 0.1n 0.1n  {2*2*time} { 2*4*time } )
Vinp3 inp2  gnd PULSE(0 1.8 0n 0.1n 0.1n {2*4*time} { 2*8*time } )
Vinp4 inp3  gnd PULSE(0 1.8 0n 0.1n 0.1n {2*8*time} { 2*16*time} )


*********
* C1
X1 p0 VDD N1 Pswitch width={4*wp}
X2 c0 VDD N1 Pswitch width={4*wp}
X3 g0 N1 out1  Pswitch width={4*wp}

X11 p0 out1 N2 Nswitch width=(2*wp)
X12 c0 n2 gnd Nswitch width={2*wp}
X13 g0 out1 gnd Nswitch width={wp}

X20 out1 out inverter

*C2
Xi4 co VDD N3 Pswitch width={8*wp}
Xi5 go N3 N4 Pswitch width={8*wp}
Xi6 g1 N4 out2 Pswitch width={4*wp}
xi7 p0 VDD N3 Pswitch width={8*wp}
xi8 p1 VDD N4 Pswitch width={4*wp}

Xi14 p1 out2 N5 Nswitch width={2*wp}
Xi15 p0 N5 N6 Nswitch width={4*wp}
Xi16 c0 N6 0 Nswitch width={4*wp}
xi17 g0 N5 0 Nswitch width={2*wp}
xi18 g1 out2 0 Nswitch width={wp}

Xi20 out2 out12 inverter

*C3
Xii1 co VDD N7 Pswitch width={16*wp}
Xii2 g0 N7 N8 Pswitch width={16*wp}
Xii3 g1 N8 N9 Pswitch width= {8*wp}
Xii4 g2 N9 out3 Pswitch width={4*wp}
Xii5 p0 VDD N7 Pswitch width={16*wp}
Xii6 p1 VDD N8 Pswitch width={8*wp}
Xii7 p2 VDD N9 Pswitch width={8*wp}

Xii11 p2 out3 N10 Nswitch width={2*wp}
Xii12 p1 N10 N11 Nswitch width={4*wp}
Xii13 p0 N11 N12 Nswitch width={8*wp}
Xii14 c0 N12 0 Nswitch width={8*wp}
Xii15 g0 N11 0 Nswitch width={4*wp}
Xii16 g1 N10 0 Nswitch width={2*wp}
Xii17 g2 out3 0 Nswitch width={Wp}

Xii20 out3 out13 inverter

*C4
Xiii1 co VDD N13 Pswitch width={32*wp}
Xiii2 g0 N13 N14 Pswitch width={32*wp}
Xiii3 g1 N14 N15 Pswitch width={16*wp}
Xiii4 g2 N15 N16 Pswitch width={8*wp}
Xiii5 g3 N16 out4 Pswitch width={4*wp}
Xiii6 p0 VDD N13 Pswitch width={32*wp}
Xiii7 p1 VDD N14 Pswitch width={16*wp}
Xiii8 p2 VDD N15 Pswitch width={8*wp}
Xiii9 p3 VDD N16 Pswitch width={4*wp}
 
Xiii11 p3 out4 N17 Nswitch width={2*wp}
Xiii12 p2 N17 N18 Nswitch width={4*wp}
Xiii13 p1 N18 N19 Nswitch width={8*wp}
Xiii14 p0 N19 N20 Nswitch width={16*wp}
Xiii15 c0 N20 0 Nswitch width={16*wp}
Xiii16 g0 N19 0 Nswitch width={8*wp}
Xiii17 g1 N18 0 Nswitch width={4*wp}
Xiii18 g2 N17 0 Nswitch width={2*wp}
Xiii19 g3 out4 0 Nswitch width={wp}

Xiii20 out4 out14 inverter

********

* Analysis commands
.control
set hcopypscolor = 1 
set color0=white 
set color1=black 
set temp=27
tran 0.1n 200n     
plot p0 c0+2 g0+4 out1+6 out+8
plot p1 c1+2 g1+4 out2+6 out12+8
plot p2 c2+2 g2+4 out3+6 out13+8
plot p3 c3+2 g3+4 out3+6 out13+8

.endc
.end