** Propagate and Generate Block using NGSPICE
** Inputs: a3, a2, a1, a0, b3, b2, b1, b0
** Outputs: p3, p2, p1, p0, g3, g2, g1, g0

** Include the technology-specific MOSFET models
.include "TSMC_180nm.txt"

** Define power supply
VDD vdd 0 DC 5V

** Parameters
.param time=5n
.param lambda = 0.09u
.param L = 2*lambda
.param Wn = 20*lambda
.param Wp = 10*lambda
.global gnd vdd

** NMOS subcircuit
.SUBCKT NSWITCH gate src drn width=1
M1 drn gate src gnd CMOSN W={width} L={L}
+ AS={5*width*L/2} PS={10*L/2+2*width}
+ AD={5*width*L/2} PD={10*L/2+2*width}
.ENDS NSWITCH

** PMOS subcircuit
.SUBCKT PSWITCH gate src drn width=1
M2 drn gate src vdd CMOSP W={width} L={L}
+ AS={5*width*L/2} PS={10*L/2+2*width}
+ AD={5*width*L/2} PD={10*L/2+2*width}
.ENDS PSWITCH

** Subcircuit for XOR gate
.SUBCKT XOR_GATE a b a_bar b_bar out
X1 a vdd n1 PSWITCH width={4*Wp}
X2 b_bar n1 out PSWITCH width={4*Wp}
X3 a_bar vdd n2 PSWITCH width={4*Wp}
X4 b out n2 PSWITCH width={4*Wp}
X5 a gnd n3 NSWITCH width={2*Wp}
X6 b n3 out NSWITCH width={2*Wp}
X7 a_bar gnd n4 NSWITCH width={2*Wp}
X8 b_bar out n4 NSWITCH width={2*Wp}
.ENDS XOR_GATE



** Subcircuit for AND gate
.SUBCKT AND_GATE a b a_bar b_bar out
X11 a vdd n1 PSWITCH width={4*Wp}
X12 b n1 out PSWITCH width={4*Wp}
X13 a gnd n2 NSWITCH width={2*Wp}
X14 b n2 out NSWITCH width={2*Wp}
.ENDS AND_GATE

** Generate input voltage sources for testing
Va3 a3 0 PULSE(0 5 0 1n 1n 50n 100n)
Vb3 b3 0 PULSE(0 5 0 1n 1n 100n 200n)

** Generate complementary inputs
Va3_bar a3_bar 0 PULSE(5 0 0 1n 1n 50n 100n)
Vb3_bar b3_bar 0 PULSE(5 0 0 1n 1n 100n 200n)

** Similarly for other inputs
Va2 a2 0 PULSE(0 5 0 1n 1n 50n 100n)
Vb2 b2 0 PULSE(0 5 0 1n 1n 100n 200n)
Va2_bar a2_bar 0 PULSE(5 0 0 1n 1n 50n 100n)
Vb2_bar b2_bar 0 PULSE(5 0 0 1n 1n 100n 200n)

Va1 a1 0 PULSE(0 5 0 1n 1n 50n 100n)
Vb1 b1 0 PULSE(0 5 0 1n 1n 100n 200n)
Va1_bar a1_bar 0 PULSE(5 0 0 1n 1n 50n 100n)
Vb1_bar b1_bar 0 PULSE(5 0 0 1n 1n 100n 200n)


**NOTE: AS LOAD WILL INCREASE IN BIGGER PG BLOCKS, WIDTHS OF DIFFERENT PG BLOCKS HAVE BEEN KEPT DIFFERENT IN MAGIC BUT THEY ARE ALL SAME HERE IN NGSPICE CODE

** Circuit instantiation
XXOR1 a1 b1 a1_bar b1_bar p1 XOR_GATE
XAND1 a1 b1 a1_bar b1_bar g1 AND_GATE
XXOR2 a2 b2 a2_bar b2_bar p2 XOR_GATE
XAND2 a2 b2 a2_bar b2_bar g2 AND_GATE
XXOR3 a3 b3 a3_bar b3_bar p3 XOR_GATE
XAND3 a3 b3 a3_bar b3_bar g3 AND_GATE

** Simulation control
.control
set temp=27
tran 0.1n 200n 
plot a1 b1+5 v(p1)+10 v(g1)+15
plot a2 b2+5 v(p2)+10 v(g2)+15
plot a3 b3+5 v(p3)+10 v(g3)+15
wrdata output.txt v(p1) v(g1) v(p2) v(g2) v(p3) v(g3)
.endc

.end